US07705028B2
3d) 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid
To a solution of methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate (65 mg, 0.116 mmol) in a 2:1 mixture of tetrahydrofuran and methanol (1.5 mL) was added 1N sodium hydroxide (0.175 mL, 0.175 mmol). The solution was heated in a microwave reactor at 120° C. for 500 seconds. The solution was concentrated and water was added followed by 0.175 mL of 1N HCl. The solution was extracted twice with ethyl acetate. The combined organic phases were washed one time with brine and concentrated. Ether was added and the solution was again concentrated to dryness to afford the title compound as a white solid (56 mg, 89%). 1H-NMR (DMSO-d6,) δ 13.14 (s, 1H), 8.88 (d, J=9 Hz, 1H), 8.20-8.16 (m, 2H), 8.09 (d, J=9 Hz, 1H), 7.90 (d, J=9 Hz, 1H), 7.69-7.49 (m, 6H), 6.90 (d, J=9 Hz, 2H), 4.83 (s, 2H), 4.00 (quintet, J=9 Hz, 1H), 2.43-2.34 (m, 4H), 2.10-1.92 (m, 2H). HRMS C31H23Cl2NO4 m/z 544.10769 (M+H)+Cal; 544.10747 (M+H)+Obs.

reactant | methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate | 0.116 mmol, 65 mg | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C32H25Cl2NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 0.175 mmol, 1N, 0.175 mL | [OH-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
product | 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid | 56 mg, 89% | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)O | C31H23Cl2NO4
